US07235572B2
a] 6-(tert-Butyl-dimethyl-silanyloxy)-3-chloro-1H-indole
A solution of N-chlorosuccinimide (270 mg, 2 mmol) in dichloromethane (4 ml) is added within 30 min to a solution of 6-(tert-butyl-dimethyl-silanyloxy)-1H-indole (500 mg, 2 mmol) in dichloromethane (10 ml) at 0° C. under an argon atmosphere. The solution was naturally warmed to ambient temperature and stirred for 2 h. Ice water was added and the mixture was extracted two times with tert-butyl methyl ether. The combined extracts were dried over sodium sulfate and the solvent was removed under reduced pressure to give 560 mg (1.98 mmol, 98%) of the title compound as red solid which was used in the next step without further purification.

reactant | N-chlorosuccinimide | 2 mmol, 270 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 6-(tert-butyl-dimethyl-silanyloxy)-1H-indole | 2 mmol, 500 mg | C(C)(C)(C)[Si](OC1=CC=C2C=CNC2=C1)(C)C | C14H21NOSi
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-(tert-Butyl-dimethyl-silanyloxy)-3-chloro-1H-indole | 1.98 mmol, 560 mg, 98% | C(C)(C)(C)[Si](OC1=CC=C2C(=CNC2=C1)Cl)(C)C | C14H20ClNOSi
